US04180662
Preparation of 7-chloro-4-hydroxy-2-methyl-3-(2-pyridylcarbamoyl)-2H-thieno[3,4-e]1,2-thiazine-1,1-dioxide
A mixture of 2.2 g. of 3-carbomethoxy-7-chloro-4-hydroxy-2-methyl-2H-thieno-[3,4-e]-1,2-thiazine-1,1-dioxide, 0.9 g. of 2-aminopyridine and 240 ml. of absolute o-xylene is boiled under reflux for 7 hours while stirring, approximately 80 ml. of the o-xylene being slowly distilled during the first 2 hours. After the reaction mixture has been cooled to room temperature, it is concentrated to approximately 60 ml. by evaporation in vacuo and cooled in an ice bath. The product that crystallizes out is suction filtered, washed with ether, dried and recrystallized from acetonitrile, and 7-chloro-4-hydroxy-2-methyl-3-(2-pyridylcarbamoyl)-2H-thieno[3,4-e]-1,2-thiazine-1,1-dioxide having a melting point of 218°-220° (with decomposition) is obtained.

reactant | 3-carbomethoxy-7-chloro-4-hydroxy-2-methyl-2H-thieno-[3,4-e]-1,2-thiazine-1,1-dioxide | C(=O)(OC)C=1N(S(C=2C(C1O)=CSC2Cl)(=O)=O)C | C9H8ClNO5S2
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | 7-chloro-4-hydroxy-2-methyl-3-(2-pyridylcarbamoyl)-2H-thieno[3,4-e]1,2-thiazine-1,1-dioxide | ClC=1SC=C2C(=C(N(S(C21)(=O)=O)C)C(NC2=NC=CC=C2)=O)O | C13H10ClN3O4S2
